US05264578
Ethyl 6-Iodo-nicotinoate (Compound 21)
A mixture of 16.230 g (84.5 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 90 ml of methylene chloride was cannulated into a mixture of 17.80 g (71.2 mmol) of 6-iodo-nicotinic acid in 30 ml of methylene chloride. The resulting mixture was stirred and 7.85 g (0.171 mmol) of ethanol, and then 0.826 g (6.8 mmol) of 4-dimethylaminopyridine was added and the resulting mixture refluxed at 55° C. for 20 hours and then stirred at room temperature for 12 hours. Ether and water were added and the layers separated. The aqueous layer was extracted with 2×40 ml of ether and the organic portions combined, washed with saturated NaCl, dried over Na2SO4, and concentrated yielding a white solid which was purified by flash chromatography (SiO2, 10% ethyl acetate in hexanes) to give the title compound as a white solid.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 84.5 mmol, 16.230 g | Cl.CN(CCCN=C=NCC)C
reactant | 6-iodo-nicotinic acid | 71.2 mmol, 17.80 g | IC1=NC=C(C(=O)O)C=C1 | C6H4INO2
reactant | ethanol | 0.171 mmol, 7.85 g | C(C)O | C2H6O
reactant | Ether | CCOCC | C4H10O
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6.8 mmol, 0.826 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | Ethyl 6-Iodo-nicotinoate | IC1=NC=C(C(=O)OCC)C=C1 | C8H8INO2
